US09085540B2
To a mixture of 6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (145 mg), ethanol (2 mL), and tetrahydrofuran (6 mL) was added 10% palladium-supported carbon (50% wet product) (30 mg), followed by stirring for 5 hours under a hydrogen gas atmosphere (1 atm). The reaction mixture was filtered through celite and then the solvent was evaporated under reduced pressure to obtain 5-(3-aminophenoxy)-6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}pyrazine-2-carboxamide (135 mg) as a solid.

reactant | 6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 145 mg | C(C)C1=C(N=C(C(=N1)C(=O)N)NC1=C(C=C(C=C1)N1CCOCC1)C)OC1=CC(=CC=C1)[N+](=O)[O-] | C24H26N6O5
reactant | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium | 30 mg | [Pd] | Pd
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 5-(3-aminophenoxy)-6-ethyl-3-{[2-methyl-4-(morpholin-4-yl)phenyl]amino}pyrazine-2-carboxamide | 135 mg | NC=1C=C(OC=2N=C(C(=NC2CC)C(=O)N)NC2=C(C=C(C=C2)N2CCOCC2)C)C=CC1 | C24H28N6O3
